US07417062B2
Step 1: 2-(S)-{[Benzofuran-2-ylmethyl-(3,4,5-trimethoxy-benzoyl)-amino]-methyl}-pyrrolidin-1-carboxylic acid tert-butyl ester.
2-(S)-{[Benzofuran-2-ylmethyl]-amino]-methyl}-pyrrolidin-1-carboxylic acid tert-butyl ester 0.33 g (0.28 mmol), 3,4,5-trimethoxy-benzoyl chloride 65 mg (0.28 mmol) and triethylamine 0.04 mL (0.28 mmol). After 1 hour, saturated sodium bicarbonate added and the mixture extracted with dichloromethane, combined organic layer, dried over magnesium sulfate, filtered, and concentrated under vacuum. Purification over silica gel chromatography, elution ethyl acetate-hexane 5.5-4.5, gave 100 mg of light yellow oil.

reactant | pyrrolidin-1-carboxylic acid tert-butyl ester | 0.28 mmol, 0.33 g | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
reactant | 3,4,5-trimethoxy-benzoyl chloride | 0.28 mmol, 65 mg | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | triethylamine | 0.28 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-(S)-{[Benzofuran-2-ylmethyl-(3,4,5-trimethoxy-benzoyl)-amino]-methyl}-pyrrolidin-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC=1OC2=C(C1)C=CC=C2 | C29H36N2O7
